US07825120B2
5-Amino-3-methyl-isoxazole (100 mg, 1.02 mmol, 1.0 equiv.) was added to a vial and dissolved in anhydrous THF (EMD, 5 mL) and redistilled DIPEA (196 ul, 1.12 mmol, 1.1 equiv.) under atmosphere of N2. To this solution 4-nitrophenyl chloroformate (205 mg, 1.02 mmol, 1.0 equiv.) was added directly and the vial was purged again with nitrogen. After 10 minutes, the reaction turned off-white and opaque; after 12 hours of stirring at room temperature the mixture became yellow in color. The presence of the intermediate carbamate was confirmed by TLC (10% MeOH/DCM) and reverse phase LC/MS: a strong UV peak was observed but the mass was not observed in positive ionization mode. Ethyl 4-(3-(aminomethyl)-4-fluorobenzyl)piperazine-1-carboxylate (139 mg, 1.02 mmol, 1.0 equiv.) in a minimal amount of THF/DCM and added drop-wise to the reaction vessel under atmosphere of N2. The mixture was stirred for 1 hour then heated to 65° C. for 2 hours. The reaction was allowed to cool to room temperature and then diluted with ethyl acetate (30 mL), washed with 1N NaOH (2×10 mL) and brine (1×10 mL), and dried over Na2SO4. The organic layer was then concentrated under reduced pressure to yield a yellow oil. The yellow oil was loaded onto a Biotage samplet and purified via automated silica gel chromatography in MeCN/DCM (Linear gradient from 15% to 74% [300 mL], held at 74%[140 mL], linear gradient from 74% to 100% [300 mL], and held at 100% [400 mL]) to provide 24 mg of ethyl 4-(4-fluoro-3-((3-(3-methylisoxazol-5-yl)ureido)methyl)benzyl)piperazine-1-carboxylate.

reactant | 5-Amino-3-methyl-isoxazole | 1.02 mmol, 100 mg, 1.0 equiv. | NC1=CC(=NO1)C | C4H6N2O
reactant | DIPEA | 1.12 mmol, 196 ul, 1.1 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 1.02 mmol, 205 mg, 1.0 equiv. | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Ethyl 4-(3-(aminomethyl)-4-fluorobenzyl)piperazine-1-carboxylate | 1.02 mmol, 139 mg, 1.0 equiv. | NCC=1C=C(CN2CCN(CC2)C(=O)OCC)C=CC1F | C15H22FN3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | ethyl 4-(4-fluoro-3-((3-(3-methylisoxazol-5-yl)ureido)methyl)benzyl)piperazine-1-carboxylate | 24 mg | FC1=C(C=C(CN2CCN(CC2)C(=O)OCC)C=C1)CNC(=O)NC1=CC(=NO1)C | C20H26FN5O4
